US09371321B2
Step B: tert-Butyl (S)-4-((5-(1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)amino)piperidine-1-carboxylate
To crude tert-butyl (S)-4-((5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)amino)piperidine-1-carboxylate was added HOAc (2 drops), followed by ACN (2 mL), 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (0.083 g, 0.493 mmol), and DIPEA (0.344 mL, 1.970 mmol). The reaction mixture was stirred at 75° C. for 1 hour. LCMS showed the reaction was complete, though messy. The volatiles were removed by N2 flow. The crude title compound was used without further purification. ESI-MS m/z [M+H]+ calc'd for C26H35N9O2, 506. found 506.

reactant | tert-butyl (S)-4-((5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)amino)piperidine-1-carboxylate | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)NC2CCN(CC2)C(=O)OC(C)(C)C | C20H31N5O2
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 0.493 mmol, 0.083 g | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | DIPEA | 1.970 mmol, 0.344 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | HOAc | 2 drops | CC(=O)O | C2H4O2
solvent | ACN | 2 mL | C(C)#N | C2H3N
product | tert-Butyl (S)-4-((5-(1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)amino)piperidine-1-carboxylate | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)NC2CCN(CC2)C(=O)OC(C)(C)C)C#N)C | C26H35N9O2
